US08912188B2
To a solution of methyl 2-(4-fluorophenyl)-3-(pyrrolidin-1-yl)quinoxaline-6-carboxylate (72 mg, 0.20 mmol) in methanol (20 mL) was added sodium hydroxide (50 mg, 1.25 mmol). After stirring overnight at room temperature, the reaction mixture was concentrated under reduced pressure to afford a residue, which was dissolved in water (10 mL), adjusted to pH 6 with hydrochloric acid (3N). The product formed a precipitate and was filtered to give 2-(4-fluorophenyl)-3-(pyrrolidin-1-yl)quinoxaline-6-carboxylic acid as a light yellow solid (41.5 mg, 60%).

reactant | methyl 2-(4-fluorophenyl)-3-(pyrrolidin-1-yl)quinoxaline-6-carboxylate | 0.20 mmol, 72 mg | FC1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1N1CCCC1)C(=O)OC | C20H18FN3O2
reactant | sodium hydroxide | 1.25 mmol, 50 mg | [OH-].[Na+]
reactant | hydrochloric acid | 3N | Cl | ClH
solvent | methanol | 20 mL | CO | CH4O
solvent | water | 10 mL | O | H2O
product | 2-(4-fluorophenyl)-3-(pyrrolidin-1-yl)quinoxaline-6-carboxylic acid | 41.5 mg, 60% | FC1=CC=C(C=C1)C1=NC2=CC=C(C=C2N=C1N1CCCC1)C(=O)O | C19H16FN3O2
